US04143143
5,6-dihydro-8,9-dimethoxy-1-methyl-3-(2,6-dimethylphenylamino)imidazo[5,1-a]isoquinoline
2.9 g 2,6-dimethylphenylisocyanide dichloride is added to a suspension of 5 g of 1-(1-aminoethyl)-3,4-dihydro-6,7-dimethoxyisoquinoline dihydrobromide in 100 ml dimethylformamide. 3.6 g of anhydrous potassium carbonate are then added. The suspension is stirred and warmed at 60° for 6 hours. The potassium carbonate is filtered off and washed with dimethylformamide. The washings and filtrate are concentrated in a vacuum, and the residue is chromatographed on silicagel using CHCl3 /CH3OH (95:5) as eluant to give the title compound as the free base; M.Pt. 234°-236°.

reactant | 1-(1-aminoethyl)-3,4-dihydro-6,7-dimethoxyisoquinoline dihydrobromide | 5 g | Br.Br.NC(C)C1=NCCC2=CC(=C(C=C12)OC)OC
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5,6-dihydro-8,9-dimethoxy-1-methyl-3-(2,6-dimethylphenylamino)imidazo[5,1-a]isoquinoline | COC=1C=C2CCN3C(C2=CC1OC)=C(N=C3NC3=C(C=CC=C3C)C)C | C22H25N3O2
